US04767447
2-[2-Chloro-4-(methylsulfonyl)benzoyl]-4,4-dimethyl-5-phenyl-1,3-cyclohexanedione
2-Chloro-4-(methylsulfonyl)benzoyl chloride (2.3 g, 9 mmol) and 4,4-dimethyl-5-phenyl-1,3-cyclohexanedione (2.0 g, 9 mmol) were dissolved in 50 ml of acetonitrile. Triethylamine (1.8 g, 18 mmol) was added dropwise and the resulting solution was stirred at room temperature for 1 hour. Acetone cyanohydrin (0.17 g, 2 mmol) and triethylamine (1.8 g, 18 mmol) were added and the reaction mixture was stirred at room temperature for 1.5 hour. The reaction mixture was concentrated under vacuum and the residue dissolved in 100 ml of methylene chloride. The methylene chloride solution was washed with 2N hydrochloric acid, 10% cupric acetate, water, 5% potassium carbonate, 2N hydrochloric acid, and water. The methylene chloride solution was dried over anhydrous magnesium sulate and concentrated under vacuum, yielding 1.2 g of the desired product as a viscous oil. It was identified as such by nuclear magnetic resonance spectroscopy, infrared spectroscopy and mass spectroscopy.

reactant | 2-Chloro-4-(methylsulfonyl)benzoyl chloride | 9 mmol, 2.3 g | ClC1=C(C(=O)Cl)C=CC(=C1)S(=O)(=O)C | C8H6Cl2O3S
reactant | 4,4-dimethyl-5-phenyl-1,3-cyclohexanedione | 9 mmol, 2.0 g | CC1(C(CC(CC1C1=CC=CC=C1)=O)=O)C | C14H16O2
reactant | Triethylamine | 18 mmol, 1.8 g | C(C)N(CC)CC | C6H15N
reactant | Acetone cyanohydrin | 2 mmol, 0.17 g | CC(C#N)(O)C | C4H7NO
reactant | triethylamine | 18 mmol, 1.8 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-[2-Chloro-4-(methylsulfonyl)benzoyl]-4,4-dimethyl-5-phenyl-1,3-cyclohexanedione | 1.2 g | ClC1=C(C(=O)C2C(CC(C(C2=O)(C)C)C2=CC=CC=C2)=O)C=CC(=C1)S(=O)(=O)C | C22H21ClO5S
